US04533731
A mixture consisting of 5 g of 3-aminoindazole and 4.3 g of 95% sulfuric acid was stirred for 3 hours at 80° C. To the mixture was added 13 ml of water, and the pH of the mixture was adjusted to 14 with potassium hydroxide. The mixture was washed twice with 20 ml of chloroform, and water was removed under reduced pressure. The residue thus obtained was added with 12.5 g of potassium hydroxide and 0.6 ml of water, and the mixture was stirred for 8 hours at 250° C. After cooling, to the mixture was added hydrochloric acid to separate crystals. The crystals were obtained by filtration and dried to give 2.86 g of 3-amino-5-hydroxyindazole having the following analytical values.

reactant | 3-aminoindazole | 5 g | NC1=NNC2=CC=CC=C12 | C7H7N3
reactant | sulfuric acid | 4.3 g | S(O)(O)(=O)=O | H2O4S
reactant | potassium hydroxide | [OH-].[K+]
reactant | potassium hydroxide | 12.5 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 0.6 ml | O | H2O
solvent | water | 13 ml | O | H2O
product | 3-amino-5-hydroxyindazole | 2.86 g | NC1=NNC2=CC=C(C=C12)O | C7H7N3O
